US06605629B1
To a mixture of 2-(2-pyrimidinylsulfanyl)-4-(4-chlorophenyl)-5-oxazolepropanol (174 mg), 2-methoxyphenol (124 mg), tributylphosphine (202 mg) and tetrahydrofuran (5 ml) was added 1,1′-(azodicarbonyl)dipiperidine (252 mg) at room temperature, and the resulting mixture was stirred for 1 hour. After the reaction mixture was concentrated, the residue was subjected to silica gel column chromatography, and 4-(4-chlorophenyl)-5-[3-(2-methoxyphenoxy)propyl]-2-(2-pyrimidinylsulfanyl)oxazole was obtained as an oil (182 mg. 80%) from an ethyl acetate-hexane (1:3, v/v)-eluted fraction.

reactant | 2-(2-pyrimidinylsulfanyl)-4-(4-chlorophenyl)-5-oxazolepropanol | 174 mg | N1=C(N=CC=C1)SC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCCO | C16H14ClN3O2S
reactant | 2-methoxyphenol | 124 mg | COC1=C(C=CC=C1)O | C7H8O2
reactant | tributylphosphine | 202 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 252 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-(4-chlorophenyl)-5-[3-(2-methoxyphenoxy)propyl]-2-(2-pyrimidinylsulfanyl)oxazole | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=C(C=CC=C1)OC)SC1=NC=CC=N1 | C23H20ClN3O3S
